US04757102
[N,N-Dibenzylaminoxymethyl]di-n-hexylamine
The procedure of Example I is repeated using 21.33 g of dibenzylhydroxylamine, 9.73 g of aqueous formaldehyde (37%) solution and 18.54 g of di-n-hexylamine, to afford the title compound.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | formaldehyde | 9.73 g | C=O | CH2O
reactant | di-n-hexylamine | 18.54 g | C(CCCCC)NCCCCCC | C12H27N
product | [N,N-Dibenzylaminoxymethyl]di-n-hexylamine | C(C1=CC=CC=C1)N(OCN(CCCCCC)CCCCCC)CC1=CC=CC=C1 | C27H42N2O
